US07399759B2
tert-Butyl 2-(2-pyridyl)ethylcarbamate N-oxide
tert-Butyl 2-(2-pyridyl)ethylcarbamate (18.5 g, 83 mmol) and 3-chloroperbenzoic acid (77%, 24.5 g, 109 mmol) were dissolved in ethyl acetate (200 ml), and the mixture was stirred at room temperature for 15 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with methanol-ethyl acetate (1:4, v/v) were collected and concentrated to give the titled compound (19.6 g, 99%).

reactant | tert-Butyl 2-(2-pyridyl)ethylcarbamate | 83 mmol, 18.5 g | N1=C(C=CC=C1)CCNC(OC(C)(C)C)=O | C12H18N2O2
reactant | 3-chloroperbenzoic acid | 109 mmol, 24.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-(2-pyridyl)ethylcarbamate N-oxide | 19.6 g, 99% | N1=C(C=CC=C1)CC[NH+](C(OC(C)(C)C)=O)[O-] | C12H18N2O3
